US04120972
2-(5-Methyl-4-imidazolylmethylthio)ethyl N-[2-(5-methyl-4-imidazolylmethylthio)ethyl]dithiocarbamate.
5-Methyl-4-(2-isothiocyanatoethylthiomethyl)imidazole hydrochloride may be treated with one equivalent of triethylamine and 2-(5-methyl-4-imidazolylmethylthio)ethanethiol according to the general procedure of Example 1(b) to give the title product.

reactant | 5-Methyl-4-(2-isothiocyanatoethylthiomethyl)imidazole hydrochloride | Cl.CC1=C(N=CN1)CSCCN=C=S
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
reactant | 2-(5-methyl-4-imidazolylmethylthio)ethanethiol | CC1=C(N=CN1)CSCCS | C7H12N2S2
product | 2-(5-Methyl-4-imidazolylmethylthio)ethyl N-[2-(5-methyl-4-imidazolylmethylthio)ethyl]dithiocarbamate | CC1=C(N=CN1)CSCCNC(SCCSCC=1N=CNC1C)=S | C15H23N5S4
